US20010007875A1
42.9 g of sodium tert-butoxide are added to 50 g of 4-fluorophenol in solution in 180 ml of tertbutanol, followed by 53 ml of bromoacetaldehyde dimethyl acetal and the reaction medium is heated under reflux for 96 h under an inert atmosphere. It is concentrated under vacuum and the residue is taken up in ethyl ether. The organic phase is washed with water and then with a 2 N aqueous sodium hydroxide solution until the starting phenol completely disappears. The organic phase is again washed with water and then dried over sodium sulfate and then concentrated under vacuum. The residue is solubilized in a mixture of 1000 ml of THF and 700 ml of 5% aqueous hydrochloric acid, and then heated under reflux for 3 h. After cooling, 500 ml of water and 500 ml of ethyl acetate are added to the reaction medium. The organic phase is decanted, dried over sodium sulfate and concentrated under vacuum to give an oil which is purified on a silica column, eluting with dichloromethane. 36 g of 4-fluorophenoxyacetaldehyde are obtained in the form of an oil which is used without further purification.

reactant | sodium tert-butoxide | 42.9 g | CC(C)([O-])C.[Na+]
reactant | 4-fluorophenol | 50 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | bromoacetaldehyde dimethyl acetal | 53 ml | COC(CBr)OC | C4H9BrO2
solvent | tertbutanol | 180 ml | C(C)(C)(C)O | C4H10O
product | 4-fluorophenoxyacetaldehyde | 36 g | FC1=CC=C(OCC=O)C=C1 | C8H7FO2
